US05102877
A solution of ethyl (3S)-4-benzylmorpholine-3-carboxylate (6.50 g) in methanol (130 ml) was hydrogenated under atmospheric pressure of hydrogen over 20% palladium hydroxide on carbon (0.6 g) for 3 hours at ambient temperature. The catalyst was filtered off and the methanol was evaporated to give ethyl (3S)-morpholine-3-carboxylate (3.83 g) as a syrup.

reactant | ethyl (3S)-4-benzylmorpholine-3-carboxylate | 6.50 g | C(C1=CC=CC=C1)N1[C@@H](COCC1)C(=O)OCC | C14H19NO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 130 ml | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.6 g | [OH-].[OH-].[Pd+2]
product | ethyl (3S)-morpholine-3-carboxylate | 3.83 g | N1[C@@H](COCC1)C(=O)OCC | C7H13NO3
